US04008068
Preparation of 5-Chloromethyl-1,3,4-thiadiazol-2-yl Isocyanate Dimer
A saturated solution of phosgene in ethyl acetate (100 ml) is charged into a glass reaction vessel equipped with a mechanical stirrer. A slurry of 5-chloromethyl-2-amino-1,3,4-thiadiazole (10 grams) in ethyl acetate (300 ml) is added to the reaction vessel, and the resulting mixture is stirred for a period of about 16 hours, resulting in the formation of a precipitate. The reaction mixture is then purged with nitrogen gas to remove unreacted phosgene. The purged mixture is then filtered to recover the desired product 5-chloromethyl-1,3,4-thiadiazol-2-yl isocyanate dimer as a solid.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 5-chloromethyl-2-amino-1,3,4-thiadiazole | 10 grams | ClCC1=NN=C(S1)N | C3H4ClN3S
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 5-Chloromethyl-1,3,4-thiadiazol-2-yl Isocyanate | ClCC1=NN=C(S1)N=C=O | C4H2ClN3OS
